US07585885B2
(2-(R)-[(1S,2S)-2-Acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-piperidine-1-carboxylic acid tert-butyl ester
Add 1-acetylimidazole (0.035 g, 0.315 mmol) and triethylamine (0.04 mL, 0.286 mmol) to solution of 2-(R)-[2-(S)-amino-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-piperidine-1-carboxylic acid tert-butyl ester (0.106 mg, 0.286 mmol) in dichloromethane (10 mL) and stir 18 h at room temperature. Dilute with ethyl acetate and wash with 1 N hydrochloric acid (3×), saturated aqueous sodium bicarbonate, saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with dichloromethane and ethyl acetate) to give the title compound as a white solid (0.089 g, 76%).

reactant | 1-acetylimidazole | 0.315 mmol, 0.035 g | C(C)(=O)N1C=NC=C1 | C5H6N2O
reactant | triethylamine | 0.286 mmol, 0.04 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(R)-[2-(S)-amino-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.286 mmol, 0.106 mg | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O | C19H28F2N2O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(R)-[(1S,2S)-2-Acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.089 g, 76% | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O | C21H30F2N2O4
